US07749992B2
Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-amino-8-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate
This compound was prepared utilizing the same methodology described in Example 26 wherein replacement of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate with isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate following the procedure of Example 26, Steps 1-2 for the synthesis of isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-amino-2,3,4,5-tetrahydrobenzo[b]azepine 1-carboxylate. CI MS 546 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)C)Br | C26H27BrF6N2O3
reactant | isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-amino-2,3,4,5-tetrahydrobenzo[b]azepine 1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C25H27F6N3O3
product | Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-7-amino-8-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C(=C2)N)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H29F6N3O3
